US08053436B1
(±)-3,6-Dibromo-9-(oxiran-2-ylmethyl)carbazole
At rt a solution of 3,6-dibromo-9H-carbazole (5.23 g, 16.10 mmol) in anhydrous THF (200 mL) is treated with NaH (0.703 g, 16.10 mmol, 55% in mineral oil) and a solution of (±)-3-nitro-benzene sulfonic acid oxiranyl methyl ester (4.17 g, 16.10 mmol) in anhydrous THF (30 mL). After 16 hours of stirring at rt the reaction mixture is quenched with a saturated aqueous solution of sodium hydrogenocarbonate (200 mL). Extraction with Et2O (500 mL+2×250 mL), drying over MgSO4 and evaporation under reduced pressure gives a yellow solid. Flash chromatography on a 7×27 cm2 column of SiO2 using DCM/Petroleum Ether (1/1) gives the title compound (3.65 g, 9.58 mmol) as a white solid in a 59% yield.

reactant | 3,6-dibromo-9H-carbazole | 16.10 mmol, 5.23 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | NaH | 16.10 mmol, 0.703 g | [H-].[Na+]
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | (±)-3,6-Dibromo-9-(oxiran-2-ylmethyl)carbazole | 9.58 mmol, 3.65 g, 59% yield | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC1OC1 | C15H11Br2NO
